US04666510
The sodium salt of 5-(3-acetyl-2,4,5-trimethylphenyl-2-[1-(ethoxyimino)butyl]-3-hydroxy-cyclohex-2-en-1-one (0.13 g; 0.33 mmole) was dissolved in acetone and then 4-nitrobenzoyl chloride (0.06 g; 0.33 mmole) was added. The mixture was stirred for 15 minutes and then the solvent was removed by evaporation under reduced pressure using a rotary evaporator. The product was purified by column chromatography over silica gel (eluant dichloromethane) to give 5-(3-acetyl-2,4,6-trimethylphenyl)-2-[1-(ethoxyimino)butyl]-3-(4-nitrobenzoyl)oxy-cyclohex-2-en-1-one (0.16 g; 93.6%) as a yellow oil.

reactant | sodium | [Na] | Na
reactant | 3-acetyl-2,4,5-trimethylphenyl-2-[1-(ethoxyimino)butyl]-3-hydroxy-cyclohex-2-en-1-one | 0.33 mmole, 0.13 g | C(C)(=O)C=1C(=C(C=C(C1C)C)C1C(=C(C(CC1)=O)C(CCC)=NOCC)O)C | C23H31NO4
reactant | 4-nitrobenzoyl chloride | 0.33 mmole, 0.06 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | acetone | CC(=O)C | C3H6O
product | 5-(3-acetyl-2,4,6-trimethylphenyl)-2-[1-(ethoxyimino)butyl]-3-(4-nitrobenzoyl)oxy-cyclohex-2-en-1-one | 0.16 g, 93.6% | C(C)(=O)C=1C(=C(C(=CC1C)C)C1CC(=C(C(C1)=O)C(CCC)=NOCC)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C30H34N2O7
